US06331549B1
12.3 g of 2-methoxyaniline, 14.2 g of ethyl 2-methylacetoacetate and 3 drops of 1N HCl are introduced into a 250 ml three-necked flask fitted with Dean-Stark apparatus and a condenser. The mixture is stirred overnight. 100 ml of toluene are added and the mixture is refluxed until distillation of the toluene/water azeotrope is complete. The toluene is then evaporated off and 100 ml of diphenyl ether are added. The mixture is heated at 200° C. for 1 h. 50 ml of diphenyl ether are evaporated off and the mixture is cooled to room temperature. 20 ml of petroleum ether are added and the product which crystallizes is filtered off. 2.1 g (yield: 10%) of 2,3-dimethyl-4-hydroxy-8-methoxyquinoline are obtained—m.p.: >290° C.

reactant | 2-methoxyaniline | 12.3 g | COC1=C(N)C=CC=C1 | C7H9NO
reactant | ethyl 2-methylacetoacetate | 14.2 g | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | HCl | 1N, 3 drops | Cl | ClH
solvent | toluene water | C1(=CC=CC=C1)C.O
product | 2,3-dimethyl-4-hydroxy-8-methoxyquinoline | 2.1 g, yield: 10% | CC1=NC2=C(C=CC=C2C(=C1C)O)OC | C12H13NO2
